US05942516
f) 1-Bromo-2-methoxymethoxy-4-methoxybenzene
To a solution of 1-Bromo-2-hydroxy-4-methoxybenzene (5.00 g, 24.60 mmol) in DMF was added 60% sodium hydride (1.97 g, 49.20 mmol) at 0° C. under argon. The mixture was allowed to stir at 0° C. for 15 minutes, then 90% bromomethyl methylether (4.10 g, 29.50 mmol) was added. After stirring for 1 h at 0° C. the reaction was quenched with water. The mixture was extracted with ethyl acetate and the combined organic extracts were washed with brine and dried (Na2SO4). Removal of the solvent afforded the title compound as an oil (6.5 g, quantitative yield). 1H NMR (400 MHz, CDCl3) δ 7.41 (d, 2H), 6.76 (d, 1H), 6.47 (dd, 1H), 5.24 (s, 2H), 3.87 (s, 3H), 3.53 (s, 3H).

reactant | 1-Bromo-2-hydroxy-4-methoxybenzene | 24.60 mmol, 5.00 g | BrC1=C(C=C(C=C1)OC)O | C7H7BrO2
reactant | sodium hydride | 49.20 mmol, 1.97 g | [H-].[Na+]
reactant | bromomethyl methylether | 29.50 mmol, 4.10 g | BrCOC | C2H5BrO
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-Bromo-2-methoxymethoxy-4-methoxybenzene | 6.5 g, quantitative yield | BrC1=C(C=C(C=C1)OC)OCOC | C9H11BrO3
